US08440595B2
A mixture of 8-bromo-3-iodo-6-methoxyquinoline (0.92 g) and conc HBr (11 ml) is heated at reflux during 3 days until no starting material can be detected. After addition of 2 M aq NaOH to reach pH 5 the mixture is extracted with ethyl acetate, the organic phase washed with brine and dried over anhydrous Na2SO4 Evaporation of the organic phase gives 8-bromo-3-iodo-6-hydroxyquinoline as a crude product which is used as such in the next step. 1H NMR (DMSO-d6) δ ppm: 10.50 (1H, br s); 8.9 (1H, d); 8.73 (1H, d); 7.70 (1H, d); 7.15 (1H, d). (M+1)+: 350/352.

reactant | 8-bromo-3-iodo-6-methoxyquinoline | 0.92 g | BrC=1C=C(C=C2C=C(C=NC12)I)OC | C10H7BrINO
reactant | HBr | 11 ml | Br | BrH
reactant | NaOH | 2 M | [OH-].[Na+]
product | 8-bromo-3-iodo-6-hydroxyquinoline | BrC=1C=C(C=C2C=C(C=NC12)I)O | C9H5BrINO
